US07498346B2
To a solution of 6-chloro-2,4-dimethyl-nicotinic acid ethyl ester (0.200 g, 0.930 mmol) in EtOH (1 mL) was added 4N NaOH (1 mL), and the mixture was heated at 90° C. for 1 h. After the mixture was cooled to room temperature EtOH was removed and the aqueous residue was acidified with 4N HCl to afford a white precipitate. The precipitate (0.152 g, 88%) was collected by filtration and dried under vacuum to give 6-chloro-2,4-dimethyl-nicotinic acid as a white solid. 1H NMR (CD3OD) δ 2.37 (s, 3H), 2.51 (s, 3H), 7.23 (s, 1H).

reactant | 6-chloro-2,4-dimethyl-nicotinic acid ethyl ester | 0.930 mmol, 0.200 g | C(C)OC(C1=C(N=C(C=C1C)Cl)C)=O | C10H12ClNO2
reactant | NaOH | 4N, 1 mL | [OH-].[Na+]
solvent | EtOH | 1 mL | CCO | C2H6O
product | 6-chloro-2,4-dimethyl-nicotinic acid | ClC1=NC(=C(C(=O)O)C(=C1)C)C | C8H8ClNO2
